US07473787B2
Thiophene-2-carboxylic acid (3-benzyl-3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide
To a stirring solution of the Thiophene-2-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide trifluoroacetic acid salt prepared above (100 mg, 0.16 mmol) in 4 mL of CH2Cl2 at room temperature was added benzaldehyde (0.02 mL, 0.24 mmol) and NaHB(OAc)3 (50 mg, 0.24 mmol). The reaction stirred at room temperature for 2 hours. The reaction was quenched by the addition of saturated NaHCO3, the layers were separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The resulting crude material was purified via flash chromatography with 75% EtOAc/hexanes. The product containing fractions were collected and concentrated to yield 32 mg of the desired product. 400 MHz 1H NMR (CDCl3) δ 7.17-7.29 (m, 6H), 6.94-6.98 (m, 4H), 6.78-6.80 (m, 1H), 3.86-3.88 (m, 4H), 3.65 (d, J=7.47 Hz, 2H), 3.52 (brs, 2H), 3.09-3.12 (m, 4H), 2.86-2.88 (m, 2H), 2.26-2.28 (m, 2H), 1.63 (brs, 1H), 1.47 (brs, 1H), 1.21-1.25 (m, 1H); MS (M+1) 492.2.

reactant | Thiophene-2-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide trifluoroacetic acid salt | FC(C(=O)O)(F)F.C12CNCC2C1CN(C(=O)C=1SC=CC1)C1=CC(=C(C=C1)N1CCOCC1)F
reactant | benzaldehyde | 0.24 mmol, 0.02 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | Thiophene-2-carboxylic acid (3-benzyl-3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide | 32 mg | C(C1=CC=CC=C1)N1CC2C(C2C1)CN(C(=O)C=1SC=CC1)C1=CC(=C(C=C1)N1CCOCC1)F | C28H30FN3O2S
